US07208498B2
Step C. 7-[(3R)-3-Amino-4-(2,5-difluorophenyl)butanoyl]-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol
A suspension of 30 mg (0.10 mmol) of (3R)-3-[(1,1-dimethylethoxycarbonyl)amino]4-(2,5-difluorophenyl)butanoic acid, 34 mg (0.12 mmol) of amine from Step B, 25 mg (0.12 mmol) of ethyl dimethylaminopropylcarbodiimide (EDC), and 18 mg (0.12 mmol) of hydroxybenzotriazole (HOBt) in 1.0 mL of dichloromethane was treated with 0.050 mL of diisopropylethylamine. The reaction mixture was sonicated for 5 min, then shaken for 3 days at ambient temperature. The mixture was diluted with 1 mL of dichloromethane, treated with 2 mL of trifluoroacetic acid (TFA), and concentrated in vacuo. Purification by HPLC (YMC C18 Pro column, gradient elution, 10–90% MeCN:H2O containing 0.1% TFA) gave 40 mg of a viscous gum which was converted to free base on a 1-g SCX column to provide 25 mg of a white solid. The solid was triturated with ether, collected and dried under vacuo to give 21.2 mg of the title compound as a white powder. LC-MS 417.1 (M+1).

reactant | (3R)-3-[(1,1-dimethylethoxycarbonyl)amino]4-(2,5-difluorophenyl)butanoic acid | 0.10 mmol, 30 mg | CC(C)(OC(=O)N[C@@H](CC(=O)O)CC1=C(C=CC(=C1)F)F)C | C15H19F2NO4
reactant | ethyl dimethylaminopropylcarbodiimide | 0.12 mmol, 25 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydroxybenzotriazole | 0.12 mmol, 18 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | diisopropylethylamine | 0.050 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 7-[(3R)-3-Amino-4-(2,5-difluorophenyl)butanoyl]-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol | 40 mg | N[C@@H](CC(=O)N1CC=2N=C(N=C(C2CC1)O)C(F)(F)F)CC1=C(C=CC(=C1)F)F | C18H17F5N4O2
